US07317033B2
a) N-(2-Amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 4,5-dichloro-1,2-diaminobenzene. Crystalline solid, m.p. 310-320° C.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 4,5-dichloro-1,2-diaminobenzene | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
product | N-(2-Amino-4,5-dichlorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=C(C(=C1)Cl)Cl)NC(=S)NC1=CSC=C1C | C12H11Cl2N3S2
